US04757070
4-Acetoxymethylindol e
4-Hydroxymethylindole (17 g) is heated in pyridine (12 ml) with acetic anhydride (11.9 ml) for three hours on the steam bath. After dilution with ether, the reaction mixture is first shaken out with 1N hydrochloric acid, then with saturated sodium bicarbonate solution and finally with water. The ether solution is evaporated. 20 g of 4-acetoxymethylindole remains.

reactant | 4-Hydroxymethylindole | 17 g | OCC1=C2C=CNC2=CC=C1 | C9H9NO
reactant | acetic anhydride | 11.9 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 4-Acetoxymethylindol e | C(C)(=O)OCC1=C2C=CNC2=CC=C1 | C11H11NO2
